US05059597
b) N-(2-Methylprop-2-enyl)-N-(2-oxoethyl)-urethane
11.5 g (50 mmol) of N-(2-methylprop-2-enyl)-N-(2,2-dimethoxyethyl)-urethane and 1.25 g (5 mmol) of pyridinium p-toluenesulphate in 100 ml of acetone and 10 ml of water are heated under reflux for two days. The mixture is concentrated and the residue is distilled.

reactant | N-(2-methylprop-2-enyl)-N-(2,2-dimethoxyethyl)-urethane | 50 mmol, 11.5 g | CC(CN(C(=O)OCC)CC(OC)OC)=C | C11H21NO4
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | N-(2-Methylprop-2-enyl)-N-(2-oxoethyl)-urethane | CC(CN(C(=O)OCC)CC=O)=C | C9H15NO3
